US04935437
A mixture of 2-[2-bromo-5-(1H-1,2,4-triazol-1-ylmethyl)-phenyl]-2-methylpropiononitrile (0.15 g), dimethylformamide (2 ml) and cuprous cyanide (0.09 g) was stirred and heated under reflux for 8 h. The cooled mixture was treated with aqueous potassium cyanide solution (10 ml) and the mixture was stirred for 10 minutes, then extracted three times with dichloromethane. The combined extracts were dried and evaporated to dryness under reduced pressure, and the residue was purified by flash chromatography, using methanol (2% by volume) in chloroform as eluant, to give 2-[2-cyano-5-(1H-1,2,4-triazol-yl methyl)phenyl]-2-methylpropiononitrile, characterised as the hydrochloride salt mp 159°-166°.

reactant | 2-[2-bromo-5-(1H-1,2,4-triazol-1-ylmethyl)-phenyl]-2-methylpropiononitrile | 0.15 g | BrC1=C(C=C(C=C1)CN1N=CN=C1)C(C#N)(C)C | C13H13BrN4
reactant | potassium cyanide | 10 ml | [C-]#N.[K+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-[2-cyano-5-(1H-1,2,4-triazol-yl methyl)phenyl]-2-methylpropiononitrile | C(#N)C1=C(C=C(C=C1)CN1N=CN=C1)C(C#N)(C)C | C14H13N5
